US07056923B2
Alternatively, to a solution of 4-chloro-3-methyl aniline (20.0 g, 0.141 mol) in MeOH (400 mL) was added drop-wise dimethyl acetylenedicarboxylate (21.07 g, 0.148 mol). The reaction mixture was stirred at ambient temperature for 30 minutes. The solvent was removed by evaporation and the residue was added to stirred diphenyl ether (300 mL), which has been preheated to 250° C. After 30 minutes, the mixture was cooled to ambient temperature and the resulting precipitate was collected and washed with 1 L of hot petroleum ether to give a mixture (29.0 g) of 2-methoxycarbonyl-6-chloro-7-methyl-4-oxoquinoline and 2-methoxycarbonyl-6-chloro-5-methyl-4-oxoquinoline as a gray solid. The mixture was dissolved in boiling methanol (1 L) and filtered hot. The collected solids were boiled in 1.2 L of methanol and filtered hot to afford (6.45 g, 16%) of 2-methoxycarbonyl-6-chloro-7-methyl-4-oxoquinoline: 1H NMR (DMSO-d6) 2.41 (s, 3), 3.92 (s, 3), 6.58 (s, 1), 7.86 (s, 1), 7.96(s, 1) ppm.

reactant | 4-chloro-3-methyl aniline | 0.141 mol, 20.0 g | ClC1=C(C=C(N)C=C1)C | C7H8ClN
reactant | dimethyl acetylenedicarboxylate | 0.148 mol, 21.07 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | MeOH | 400 mL | CO | CH4O
product | 2-methoxycarbonyl-6-chloro-7-methyl-4-oxoquinoline | 29.0 g | COC(=O)C1=NC2=CC(=C(C=C2C(C1)=O)Cl)C | C12H10ClNO3
